US07781435B2
2-{4-[2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-propionylamino]-imidazol-1-yl}-2-methyl-propionic acid methyl ester
2-Methyl-2-(4-nitro-imidazol-1-yl)-propionic acid methyl ester was reduced and coupled with 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-propionic acid to afford the title compound; MS 421.5 m/z (M+1).

reactant | 2-Methyl-2-(4-nitro-imidazol-1-yl)-propionic acid methyl ester | COC(C(C)(N1C=NC(=C1)[N+](=O)[O-])C)=O | C8H11N3O4
reactant | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-propionic acid | FC=1C=C2CCC(CC2=C(C1)F)NC(C(=O)O)C | C13H15F2NO2
product | 2-{4-[2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-propionylamino]-imidazol-1-yl}-2-methyl-propionic acid methyl ester | COC(C(C)(C)N1C=NC(=C1)NC(C(C)NC1CC2=C(C=C(C=C2CC1)F)F)=O)=O | C21H26F2N4O3
